US04479821
N-(2-Methoxyethoxy-phenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-urea
9.0 g of 2-methoxyethoxy-phenylsulfonyl isocyanate and 4.9 g of 2-amino-4-methoxy-6-methyl-1,3,5-triazine are refluxed in 60 ml of absolute dioxane for 3 hours. The mixture is treated with activated carbon, filtrated and evaporated to 1/5 of the original volume. After addition of ether 13.0 g of N-(2-methoxyethoxy-phenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-urea crystallise therefrom, m.p. 134°-138° C.

reactant | 2-methoxyethoxy-phenylsulfonyl isocyanate | 9.0 g | COCCOC1=C(C=CC=C1)S(=O)(=O)N=C=O | C10H11NO5S
reactant | 2-amino-4-methoxy-6-methyl-1,3,5-triazine | 4.9 g | NC1=NC(=NC(=N1)OC)C | C5H8N4O
solvent | dioxane | 60 ml | O1CCOCC1 | C4H8O2
product | N-(2-Methoxyethoxy-phenylsulfonyl)-N'-(4-methoxy-6-methyl-1,3,5-triazin-2-yl)-urea | COCCOC1=C(C=CC=C1)S(=O)(=O)NC(=O)NC1=NC(=NC(=N1)OC)C | C15H19N5O6S
